US07192918B2
4-(2-Pyridyl)toluene, 2 mL (1.98 g, 11.7 mmol), N-bromosuccinimide (NBS), 2.5 g (14.0 mmol), and α,α′-azobis(isobutyronitrile) (AIBN), 23 mg (0.14 mmol) were suspended in 35 mL tetrachloromethane, and refluxed for 24 hours. The product was filtered, and the solvent removed from the filtrate by rotary evaporation. Equal amounts of chloroform and water were added and the product extracted. The chloroform layer was separated and dried, and the solvent removed. 4-(2-Pyridyl)benzyl bromide, 2 g, was obtained as a sticky yellow solid.

reactant | 4-(2-Pyridyl)toluene | N1=C(C=CC=C1)C1=CC=C(C=C1)C | C12H11N
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | α,α′-azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrachloromethane | 35 mL | ClC(Cl)(Cl)Cl | CCl4
product | 4-(2-Pyridyl)benzyl bromide | N1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C12H10BrN
